US07932272B2
2-Amino-N-(5-(3-cyano-phenoxy)-thiophen-2-ylmethyl)-nicotinamide
Next, to a solution of a mixture of 2-amino-N-(5-(3-bromophenoxy)-thiophen-2-ylmethyl)-nicotinamide and debrominated compound (100 mg, 0.247 mmol) in N,N-dimethylformamide (3.0 mL) were added zinc cyanide (58 mg, 0.495 mmol) and tetrakis(triphenylphosphine)palladium(0) (285 mg, 0.247 mmol) under nitrogen atmosphere, and the solution was stirred at 140° C. from 3 hours and a half. The reaction solution was allowed to room temperature, ethyl acetate and water were added to the reaction solution, which was then partitioned, the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated, then, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate), and the title compound (9 mg, 10%) was obtained as a pale yellow oil.

reactant | 2-amino-N-(5-(3-bromophenoxy)-thiophen-2-ylmethyl)-nicotinamide | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC(=CC=C2)Br)C=CC=N1 | C17H14BrN3O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.495 mmol, 58 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.247 mmol, 285 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Amino-N-(5-(3-cyano-phenoxy)-thiophen-2-ylmethyl)-nicotinamide | 9 mg, 10% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC(=CC=C2)C#N)C=CC=N1 | C18H14N4O2S
